*Recopiled by Robertugo_2005
*Default N-Channel Unijunction Transistor
.SUBCKT TUJT 1 2 3
DE 1 4 EMITTER
VE 4 5 DC 0
HVE 6 0 VE 1K
RVE 0 6 1MEG
BBB 5 7 I=0.00028*V(5,7)+0.00575*V(5,7)*V(6)
CBB 5 7 35P
***RB1 7 2 38.15 RMOD
***RB2 3 5 2.518K RMOD 
RB1 7 2 RMOD 38.15 
RB2 3 5 RMOD 2.518K 
.MODEL RMOD R TC1=.01
.MODEL EMITTER D (IS=21.3P N=1.8)
.ENDS
* Motorola IP=.5U IV=6M VB1(sat)=3 Rbb=6.1K Vob1=3.6: E, B1, B2
.SUBCKT T2N2646 1 2 3
DE 1 4 EMITTER
VE 4 5 DC 0
HVE 6 0 VE 1K
RVE 0 6 1MEG
BBB 5 7 I=0.00028*V(5,7)+0.00575*V(5,7)*V(6) Cpar=35p
***RB1 7 2 38.15 RMOD
***RB2 3 5 2.518K RMOD 
RB1 7 2 RMOD 38.15 
RB2 3 5  RMOD 2.518K
.MODEL RMOD R TC1=.01
.MODEL EMITTER D (IS=21.3P N=1.8)
.ENDS
*Default N-Channel Unijunction Transistor
.SUBCKT XUJT 1 2 3; e b1 b2
DE 1 4 EMITTER
VE 4 5 DC 0
HVE 6 0 VE 1K
RVE 0 6 1MEG
BBB 5 7 I=0.00028*V(5,7)+0.00575*V(5,7)*V(6)
CBB 5 7 35P
RB1 7 2 38.15
RB2 3 5 2.518K
.MODEL EMITTER D (IS=21.3P N=1.8)
.ENDS XUJT
* Motorola IP=.5U IV=6M VB1(sat)=3 Rbb=6.1K Vob1=3.6: E, B1, B2
.SUBCKT 2N2646 1 2 3
DE 1 4 EMITTER
VE 4 5 DC 0
HVE 6 0 VE 1K
RVE 0 6 1MEG
BBB 5 7 I=(0.00028+0.00575*V(6))*V(5,7) Cpar=35p
RB1 7 2 38.15
RB2 3 5 2.518K
.MODEL EMITTER D (IS=21.3P N=1.8 cjo=1f)
.ENDS
*	*	*	*	*	*	*	*	*
*Default Programable Unijunction Transistor pkg: TO-92
.SUBCKT XPUT 1 2 3 ; A G K
Q1 2 4 3 NMOD
Q2 4 2 1 PMOD
.MODEL NMOD NPN()
.MODEL PMOD PNP()
.ENDS
*
.Subckt 6027 1 2 3
Q1 2 4 3 NMOD
Q2 4 2 1 PMOD
.MODEL NMOD NPN(IS=5E-15 VAF=100 IKF=0.3 ISE=1.85E-12
+ NE=1.45 RE=0.15 RC=0.15 CJE=7E-10 TF=0.6E-8
+ CJC=2.2E-10 TR=4.76E-8 XTB=3)
.MODEL PMOD PNP(IS=2E-15 VAF=100 IKF=0.3 ISE=1.90E-12
+ NE=1.5 RE=0.15 RC=0.15 CJE=7E-10 TF=1.6E-8
+ CJC=2.2E-10 TR=5.1E-8 XTB=3)
.Ends
.Subckt 6028 1 2 3
Q1 2 4 3 NMOD
Q2 4 2 1 PMOD
.MODEL NMOD NPN(IS=2E-15 VAF=100 IKF=0.3 ISE=2.5E-12
+ NE=1.6 RE=0.15 RC=0.15 CJE=7E-10 TF=0.6E-8
+ CJC=2.2E-10 TR=4.76E-8 XTB=3)
.MODEL PMOD PNP(IS=22E-15 VAF=100 IKF=0.3 ISE=1E-12
+ NE=1.7 RE=0.15 RC=0.15 CJE=7E-10 TF=1.6E-8
+ CJC=2.2E-10 TR=5.1E-8 XTB=3)
.Ends
*Programable Unijunction Transistor pkg: TO-226AA
.SUBCKT 2N6702 1 2 3
Q1 2 4 3 NMOD
Q2 4 2 1 PMOD
.MODEL NMOD NPN(IS=5E-15 VAF=100 IKF=0.005 ISE=1.85E-12 NE=1.45 
+ RB=10 RE=0.5 RC=0.5 CJE=3.5E-11 VJE=0.75 CJC=1.1E-11 VJC=0.75 TR=4.76E-8 
+ VJS=0.75 )
.MODEL PMOD PNP(IS=2E-15 VAF=100 IKF=0.005 ISE=1.9E-12 RB=10 RE=0.5 
+ RC=0.5 CJE=3.5E-11 VJE=0.75 TF=1.6E-8 CJC=1.1E-11 VJC=0.75 TR=5.1E-8 
+ VJS=0.75 )
.ENDS